US08404723B2
1-(4-Methyl-1,3-thiazol-2-yl)pentan-2-one
3.00 g (26.5 mmol) of 2,4-dimethylthiazole are dissolved in 30 ml of abs. THF and, at −78° C., 11.7 ml (29.2 mmol) of n-butyllithium (2.5 M solution in hexane) are added dropwise. After stirring at −78° C. for 2 hours, 5.23 g (45.1 mmol) of ethyl butyrate are added as solution in 15 ml of abs. THF. The mixture is stirred at −78° C. for 1 h and then warmed to room temperature. It is then hydrolyzed with sodium bicarbonate solution, and the mixture is extracted three times with diethyl ether. The combined organic phases are dried with magnesium sulfate, and the solvent is removed in a rotary evaporator. The crude product is purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 5:1). 3.0 g (62% of theory) of the title compound are obtained.

reactant | 2,4-dimethylthiazole | 26.5 mmol, 3.00 g | CC=1SC=C(N1)C | C5H7NS
reactant | n-butyllithium | 29.2 mmol, 2.5 M, 11.7 ml | C(CCC)[Li]
reactant | ethyl butyrate | 45.1 mmol, 5.23 g | C(CCC)(=O)OCC | C6H12O2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-Methyl-1,3-thiazol-2-yl)pentan-2-one | CC=1N=C(SC1)CC(CCC)=O | C9H13NOS
